US08859574B2
A mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (50.0 mg, 0.12 mmol), (R)-2-bromo-N-methylpropanamide (100.0 mg, 0.60 mmol), and triethylamine (102.0 μL, 0.60 mmol) in 2 mL of DMF was heated at 150° C. in a microwave reactor for 30 min. The reaction mixture was directly purified by preparative RP-HPLC to afford (S)-2-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-N-methylpropanamide; ESMS m/z 501.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.12 mmol, 50.0 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | (R)-2-bromo-N-methylpropanamide | 0.60 mmol, 100.0 mg | Br[C@@H](C(=O)NC)C | C4H8BrNO
reactant | triethylamine | 0.60 mmol, 102.0 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-2-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-N-methylpropanamide | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)[C@H](C(=O)NC)C)C)NC1=NNC(=C1)C | C24H30ClFN8O
